US04956375
Synthesis of 2-methyl N-(1,1,3-trimethylindan-4-yl)-3-furan carboxamide
A mixture of 1.5 g (11.9 mmols) of 2-methyl-3furan carboxylic acid with 3 ml of thionyl chloride was refluxed for 1 hour. The reaction solution was distilled under reduced pressure to remove excess thionyl chloride. The obtained residue was cooled and 20 ml of ethyl acetate, 2 g (19.8 mmols) of triethylamine, and 1.8 g (10.3 mmols) of 1,1,3-trimethylindane-4-amine were added thereto. The resultant mixture was stirred at room temperature for 2 hours. The reaction solution was sequentially washed with water and brine. The organic layer consequently separated was dried with magnesium sulfate and then concentrated under reduced pressure. The concentrated residue was purified by being recrystallized with ethyl acetate/n-hexane, to obtain 1.8 g of white crystals (Compound No. 17 shown in Table 6). The yield was 65%.

reactant | 2-methyl-3furan carboxylic acid | 11.9 mmols, 1.5 g | CC=1OC=CC1C(=O)O | C6H6O3
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 19.8 mmols, 2 g | C(C)N(CC)CC | C6H15N
reactant | 1,1,3-trimethylindane-4-amine | 10.3 mmols, 1.8 g | CC1(CC(C=2C(=CC=CC12)N)C)C | C12H17N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-methyl N-(1,1,3-trimethylindan-4-yl)-3-furan carboxamide | 1.8 g, yield was 65% | CC=1OC=CC1C(=O)NC1=C2C(CC(C2=CC=C1)(C)C)C | C18H21NO2
